* C:\Users\alumno\Desktop\TP2_potencia-master\TP2_potencia-master\Circuito_Completo_Con_Filtro.asc
Q1 N008 N025 N034 0 BC548B
Q2 N017 N025 N035 0 BC548B
Q3 N025 N025 N033 0 BC548B
Q4 N008 N008 N004 0 BC558C
Q5 N011 N008 N005 0 BC558C
R1 N011 V6 1.2k
R2 V6 N017 1.2k
V1 V12 0 12
A1 N012 N015 0 0 0 N030 N014 0 SRFLOP Ic=1 VHIGH=5
XU5 Out N002 V12 0 N002 TL081
Q6 N013 N016 N019 0 BC548B
Q7 Out N016 N020 0 BC548B
R4 N019 N026 100
R5 N020 N027 100
R6 N027 V6 1k
R7 N026 V6 1k
Q8 N016 N016 N018 0 BC548B
R8 N018 0 100
R9 V40 N016 4.1k
CL Out 0 9.4n
Q9 Out N013 N010 0 BC558C
Q10 N013 N013 N009 0 BC558C
V6 V6 0 6
R12 V12 N012 1k
R13 V12 N015 1k
R14 V12 N004 33
R15 V12 N005 33
R3 V40 N025 50k
V2 V40 0 40
XM1 N026 N030 0 BS170
XM2 N027 N014 0 BS170
Q11 N033 N033 0 0 BC548B
Q12 N035 N033 0 0 BC548B
Q13 N034 N033 0 0 BC548B
Q14 N009 N009 V12 0 BC558C
Q15 N010 N009 V12 0 BC558C
V3 NC_02 0 PULSE(5 7 0 10u 10u 0 20u)
XU3 Out N011 V12 0 N012 0 LM311
XU1 N017 Out V12 0 N015 0 LM311
A2 0 N001 0 N003 0 0 Q 0 AND Vhigh=6
A3 0 N006 0 N007 0 0 Qneg 0 AND Vhigh=6
R10 N007 N006 10K
C1 N007 0 5p
V4 Vsin 0 SINE(6 1 10k)
R11 N003 N001 10K
C2 N003 0 5p
XU2 N002 Vsin V12 0 N001 0 LM311
XU4 Vsin N002 V12 0 N006 0 LM311
R16 V6 N006 500
R17 V6 N001 500
D1 V12 N036 MURS120
C3 N028 N031 0.33µ
M§Nchan1 V40 N022 N031 N031 IRF510
M§Nchan2 N031 N039 0 0 IRF510
XU6 V6 Q 0 Qneg 0 N021 N028 N031 V12 0 N038 IR2110_
R18 N028 N036 4.7
C4 V12 0 47µ
D2 V12 N037 MURS120
C5 N029 N032 0.33µ
M§Nchan3 V40 N023 N032 N032 IRF510
M§Nchan4 N032 N040 0 0 IRF510
XU7 V6 Qneg 0 Q 0 N024 N029 N032 V12 0 N041 IR2110_
R19 N029 N037 4.7
C6 V12 0 47µ
R20 Vo2 Vo1 8
R21 N022 N031 10k
R22 N023 N032 10k
R23 N039 0 10k
R24 N040 0 10k
R25 N022 N021 10
R26 P001 N021 4.7
D3 N022 P001 1N4148
D4 N039 P002 1N4148
R27 P002 N038 4.7
R28 N039 N038 10
R29 N024 N023 10
R30 P003 N023 4.7
D5 P003 N024 1N4148
D6 P004 N041 1N4148
R31 P004 N040 4.7
R32 N041 N040 10
L1 N031 Vo1 36µ
L2 Vo2 N032 36µ
C7 0 Vo1 0.56µ
C8 0 Vo2 0.56µ
.model D D
.lib C:\Users\alumno\Documents\LTspiceXVII\lib\cmp\standard.dio
.model NPN NPN
.model PNP PNP
.lib C:\Users\alumno\Documents\LTspiceXVII\lib\cmp\standard.bjt
.model NMOS NMOS
.model PMOS PMOS
.lib C:\Users\alumno\Documents\LTspiceXVII\lib\cmp\standard.mos
.include standard_bjt.lib
.tran 0 500u 20u
.include LM393.5_1
.include TL081.301
.model MySW SW(Vt=1 Vh=-0.4  Ron=0.01p Roff = 1meg)
.inc bs170.lib
.inc LM311.301
.lib IR2110_.lib
.backanno
.end
